US06407112B1
(S)-2a-(4-(9-methylcarbamoylmethyl-2,3,4,9-tetrahydro-1H-pyrido[3,4-b]indol-2-yl)butyl)-2a,3,4,5-tetrahydro-1H-benz[cd]indol-2-one
9-methylcarbamoylmethyl-2,3,4,9-tetrahydro-1H-pyrido[3,4-b]indole•trifluoroacetate (450 mg, 1.26 mmol) and (S)-(4-bromobutyl)-2a,3,4,5-tetrahydro-1H-benz[cd]indol-2-one (308 mg, 1.0 mmol) were dissolved in dimethylformamide (5 ml). Then triethylamine(0.9 ml, 6 mmol) was added thereto. The resulting solution was reacted at room temperature for 3 days. To the reaction mixture obtained was added ethyl acetate (50 ml), which was then washed with water (50 ml×2) and saturated saline solution, successively dried with anhydrous sodium sulfate. The ethyl acetate solution was concentrated under reduced pressure to obtain a crude reaction product, which was purifiedbymeans of silica gel column chromatography, whereby 376 mg (yield 80%) of the above-described object compound could be obtained.

reactant | 9-methylcarbamoylmethyl-2,3,4,9-tetrahydro-1H-pyrido[3,4-b]indole•trifluoroacetate | 1.26 mmol, 450 mg | CNC(=O)CN1C2=C(C3=CC=CC=C13)CCNC2.FC(C(=O)[O-])(F)F
reactant | (S)-(4-bromobutyl)-2a,3,4,5-tetrahydro-1H-benz[cd]indol-2-one | 1.0 mmol, 308 mg | BrCCCCN1C([C@@H]2C=3C(=CC=CC13)CCC2)=O | C15H18BrNO
reactant | triethylamine | 6 mmol, 0.9 ml | C(C)N(CC)CC | C6H15N
reactant | ethyl acetate | 50 ml | C(C)(=O)OCC | C4H8O2
solvent | dimethylformamide | 5 ml | CN(C=O)C | C3H7NO
product | (S)-2a-(4-(9-methylcarbamoylmethyl-2,3,4,9-tetrahydro-1H-pyrido[3,4-b]indol-2-yl)butyl)-2a,3,4,5-tetrahydro-1H-benz[cd]indol-2-one | 376 mg, yield 80% | CNC(=O)CN1C2=C(C3=CC=CC=C13)CCN(C2)CCCC[C@]21C(NC=3C=CC=C(C23)CCC1)=O | C29H34N4O2
